US04307033
A solution of 21.1 g (0.1 mol) of 3,3-dimethyl-1-cyano-cyclopropane-1,2-dicarboxylic acid dimethyl ester and 5.6 g of potassium hydroxide in a mixture of 50 ml of methanol and 25 ml of water was stirred at room temperature for 2 hours. The mixture was then filtered and the filtrate was acidified with dilute hydrochloric acid. An oil separated out and was taken up in methylene chloride. The methylene chloride phase was dried over sodium sulphate and then concentrated. 13 g (65% of theory) of 3,3-dimethyl-2-methoxycarbonyl-1-cyano-cyclopropane-1-carboxylic acid were obtained in the form of a partly crystalline mass, which could be further processed directly, without purification.

reactant | 3,3-dimethyl-1-cyano-cyclopropane-1,2-dicarboxylic acid dimethyl ester | 0.1 mol, 21.1 g | COC(=O)C1(C(C1(C)C)C(=O)OC)C#N | C10H13NO4
reactant | potassium hydroxide | 5.6 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 3,3-dimethyl-2-methoxycarbonyl-1-cyano-cyclopropane-1-carboxylic acid | 13 g, 65% | CC1(C(C1(C(=O)O)C#N)C(=O)OC)C | C9H11NO4
